US05128448
A suspension of trans-(E)-3-[4-(1,1-dimethylethyl)cyclohexyl]-2-propenoic acid ethyl ester (3.6 g, 15.1 mmol) in abs. EtOH (388 mL) and 5% Pd/C (1.4 g) was hydrogenated at 1 atm for 2 h. The catalyst was filtered over Celite and the filtrate and washings were concentrated to dryness to give trans-4-(1,1-dimethylethyl)cyclohexanepropanoic acid ethyl ester (3.58 g, 14.9 mmol) in 99% yield.

reactant | trans-(E)-3-[4-(1,1-dimethylethyl)cyclohexyl]-2-propenoic acid ethyl ester | 15.1 mmol, 3.6 g | C(C)OC(\C=C\[C@@H]1CC[C@H](CC1)C(C)(C)C)=O | C15H26O2
catalyst | Pd/C | 1.4 g | [Pd] | Pd
solvent | EtOH | 388 mL | CCO | C2H6O
product | trans-4-(1,1-dimethylethyl)cyclohexanepropanoic acid ethyl ester | 14.9 mmol, 3.58 g, 99% yield | C(C)OC(CC[C@@H]1CC[C@H](CC1)C(C)(C)C)=O | C15H28O2
